US04136057
(A) Preparation of titanium dichloride-aluminum chloride-benzene complex
51 grams of aluminum powder (BDH fine powder) and 80 grams of anhydrous aluminum chloride were introduced into a 2 liter, three-necked flask and the mixture of solids was heated at 130° C. for 0.5 hours. The mixture was then allowed to cool. 500 ml of benzene was added and then 33.3 grams of titanium tetrachloride was added with stirring. The mixture was refluxed for 20 hours and then allowed to cool. The cool solution was filtered into 1 liter of heptane, and this mixture was cooled to -10° C. and maintained at this temperature for 24 hours. The supernatant liquid was decanted from the purple solid which had been formed. The solid was washed four times using 1 liter of heptane for each wash, and then was dried under reduced pressure (1 mm mercury) at ambient temperature.

reactant | aluminum | 51 grams | [Al] | Al
reactant | aluminum chloride | 80 grams | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | titanium tetrachloride | 33.3 grams | [Ti](Cl)(Cl)(Cl)Cl
reactant | benzene | 500 ml | C1=CC=CC=C1 | C6H6
product | titanium dichloride aluminum chloride benzene | [Cl-].[Cl-].[Ti+2].[Cl-].[Al+3].[Cl-].[Cl-].C1=CC=CC=C1 | InChI=1S/C6H6.Al.5ClH.Ti/c1-2-4-6-5-3-1;;;;;;;/h1-6H;;5*1H;/q;+3;;;;;;+2/p-5
